US04605785
1-(2,5-Dimethylphenyl)-1-(2-benzyloxyphenyl)-propan-1-ol
To 100 ml. of a 1.5 molar solution of 2-benzyloxyphenyl magnesium bromide in tetrahydrofurane a solution of 24.3 g. of 2',5'-dimethyl-propiophenone in 50 ml. of dry tetrahydrofurane is added under moderate reflux. The reaction mixture is stirred under slight boiling for 30 minutes, cooled and poured onto a saturated solution of ammonium chloride in ice water. Tetrahydrofurane is distilled off under reduced pressure, and the residue is extracted with benzene. The benzene phase is washed to neutral with water, and dried over anhydrous sodium sulfate. The benzene is evaporated in vacuo and the residue is fractionated to yield 43.9 g. of the named compound, boiling at 160°-162° C./1.33 Pa.

reactant | 2-benzyloxyphenyl magnesium bromide | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[Mg]Br
reactant | 2',5'-dimethyl-propiophenone | CC1=C(C=C(C=C1)C)C(CC)=O | C11H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-(2,5-Dimethylphenyl)-1-(2-benzyloxyphenyl)-propan-1-ol | CC1=C(C=C(C=C1)C)C(CC)(O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C24H26O2
